US06900345B2
N-Boc-(2S,4R)-4-Hydroxy-2-t-butyldimethylsilyloxymethylpyrrolidine
To N-Boc-(2S,4R)-4-hydroxy-2-hydroxymethylpyrrolidine (0.199 g, 0.92 mmol) in DMF (2 ml) was added imidazole (0.125 g) and t-butyldimethylsilyl chloride (0.14 g). After 1.5 h, the reaction was concentrated by evaporation under reduced pressure, and the residue dissolved in diethyl ether, washed with water and brine, dried and evaporated. Purification by chromatography on silica gel eluting with 0-30% ethyl acetate in hexane gave the title material, (0.15 g, 49%). NMR (CDCl3) 0.02 (s, 3H), 0.03 (s, 3H), 0.9 (s, 9H), 1.45 (s, 9H), 1.9 (bm, 9H), 2.2 (bm, 1H), 3.3-4.0 (bm, 5H), 4.5 (m, 1H).

reactant | N-Boc-(2S,4R)-4-hydroxy-2-hydroxymethylpyrrolidine | 0.92 mmol, 0.199 g | C(=O)(OC(C)(C)C)N1[C@@H](C[C@H](C1)O)CO | C10H19NO4
reactant | imidazole | 0.125 g | N1C=NC=C1 | C3H4N2
reactant | t-butyldimethylsilyl chloride | 0.14 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | N-Boc-(2S,4R)-4-Hydroxy-2-t-butyldimethylsilyloxymethylpyrrolidine | 0.15 g, 49% | C(=O)(OC(C)(C)C)N1[C@@H](C[C@H](C1)O)CO[Si](C)(C)C(C)(C)C | C16H33NO4Si
